US07786307B2
a) 2-(cis-4-Hydroxy-cyclohexyl)-2-methyl-propionic acid
0.200 g of 2-(cis-4-hydroxy-cyclohexyl)-2-methyl-propionic acid methyl ester are dissolved in 4 ml of methanol. 4 ml of a 1M aqueous lithium hydroxide solution are added and the mixture is stirred for 16 hours at room temperature. The reaction mixture is then neutralised with 1M HCl and concentrated by evaporation. The title compound is identified from the residue by means of flash chromatography (SiO2 60F) based on its Rf value.

reactant | 2-(cis-4-hydroxy-cyclohexyl)-2-methyl-propionic acid methyl ester | 0.200 g | COC(C(C)(C)[C@@H]1CC[C@@H](CC1)O)=O | C11H20O3
reactant | lithium hydroxide | 1M | [OH-].[Li+]
reactant | HCl | 1M | Cl | ClH
solvent | methanol | 4 ml | CO | CH4O
product | 2-(cis-4-Hydroxy-cyclohexyl)-2-methyl-propionic acid | O[C@H]1CC[C@H](CC1)C(C(=O)O)(C)C | C10H18O3
